US07592457B2
3-(4-bromo-phenyl)-5-chloro-7-methoxy-3-methyl-1H-quinoline-2,4-dione
To a solution of 3-(4-bromo-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione (600 mg, 1.40 mmol) in dry THF (30 mL) was added NaH (140 mg, 3.50 mmol) at 0° C. and stirred for 1 hour at room temperature. The reactant was poured into a 0.5N HCl solution and extracted with ethyl acetate (100 mL×3). The organic layer was washed with brine (100 mL×2), dried over anhydrous MgSO4, and concentrated in vacuo. The pure objective compound (260 mg, 47%) was obtained as white solid by a flash column chromatography (n-hexane:EtOAc=5:1): 1H NMR (200 MHz, CDCl3) δ 1.73 (s, 3H, CH3), 3.91 (s, 3H, OCH3), 6.48 (d, J=1.6 Hz, 1H, ArH), 6.60 (d, J=1.6 Hz, 1H, ArH), 7.11-7.44 (m, 4H, ArH), 8.62 (br s, 1H, NH); m.p. 239-240° C.; MS(EI) m/e 393 [M+], 210, 183; HRMS m/e cacld. for C17H13N1O3Br1Cl1 392.9767, found 392.9760.

reactant | 3-(4-bromo-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 1.40 mmol, 600 mg | BrC1=CC=C(C=C1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C16H10BrCl2NO2
reactant | NaH | 3.50 mmol, 140 mg | [H-].[Na+]
reactant | HCl | 0.5N | Cl | ClH
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(4-bromo-phenyl)-5-chloro-7-methoxy-3-methyl-1H-quinoline-2,4-dione | 260 mg, 47% | BrC1=CC=C(C=C1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)OC)=O)C | C17H13BrClNO3
